US04667020
A mixture of 24.7 parts of 2-butyl-5-(p-nitrophenyl)-1,3,4-oxadiazole, 2.5 parts of an aqueous Raney nickel suspension and 250 parts of glacial acetic acid is hydrogenated at room temperature, while shaking. When the absorption of hydrogen is complete, 2.5 parts of active carbon are added, the mixture is filtered, the filtrate is poured into saturated aqueous sodium chloride solution, and the resulting precipitate is filtered off under suction, washed with water and dried. 16 parts (74% of theory) of 2-butyl-5-(p-aminophenyl)-1,3,4-oxadiazole of melting point 125° C. (toluene) are obtained.

reactant | 2-butyl-5-(p-nitrophenyl)-1,3,4-oxadiazole | C(CCC)C=1OC(=NN1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H13N3O3
catalyst | Raney nickel | [Ni] | Ni
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-butyl-5-(p-aminophenyl)-1,3,4-oxadiazole | 74% | C(CCC)C=1OC(=NN1)C1=CC=C(C=C1)N | C12H15N3O
